US04690925
Methyl N-cyclohexylglycinate
A solution of cyclohexylamine (34.3 ml) and diazobicycloundecene (DBU, 44.8 ml) in dry tetrahydrofuran (500 ml) under a nitrogen atmosphere was cooled to 0° C. and was treated dropwise with a solution of methyl bromoacetate (28.4 ml) in tetrahydrofuran (50 ml). After stirring at room temperature overnight, the mixture was filtered to remove precipitated DBU-hydrobromide and the solvent evaporated. The resulting residue was dissolved in ether (200 ml), washed with water (2×100 ml), and brine (2×100 ml). The organic extract was dried, filtered and evaporated. Fractional distillation provided 21.1 g., b.p. 160°-170° C. (0.2 mm).

reactant | cyclohexylamine | 34.3 ml | C1(CCCCC1)N | C6H13N
reactant | diazobicycloundecene | 44.8 ml | [N+](=[N-])=C1C=C(CCCCCCCC1)C1=CCCCCCCCCC1 | C22H36N2
reactant | methyl bromoacetate | 28.4 ml | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Methyl N-cyclohexylglycinate | C1(CCCCC1)NCC(=O)OC | C9H17NO2
